US04952714
Example 1 Preparation of Triethylboroxine
A 500 cc round bottom flask was equipped with water cooled reflux condenser an electrically heated mantle, and a nitrogen bubbler to maintain an inert atmosphere. To the flask under nitrogen was added 70.0 g of B2O3 (Aldrich Gold Label) which had been ground to a powder in a mortar under dry nitrogen. Neat triethylborane (100.0 g) was added to the boron oxide all at one time and the reaction flask was set up for refluxing. Reflux was continued for 5 days at which point the reflux condenser was changed for a distillation condenser and the liquid was distilled in two fractions. The second fraction yielded 60 cc of a colorless liquid which distilled at 148° C. The H-1 and B-11 NMR of the second fraction indicated that it was pure triethylboroxine.

reactant | triethylborane | 100.0 g | C(C)B(CC)CC | C6H15B
reactant | boron oxide | [B]=O | BO
reactant | water | O | H2O
product | Triethylboroxine | 60 cc | C(C)B1OB(OB(O1)CC)CC | C6H15B3O3
